US07138413B1
5-Nitro-2-(5-piperidinopentylamino)pyridine
Synthesis and purification were performed according to the procedure stated in example 152 using reagents 5-aminopentanol (15 mmol), 2-chloro-5-nitropyridine (15 mmol), 5 ml of triethylamine, and catalytic amounts of potassium iodide in the first step. The final product was purified by column chromatography (eluent: ethyl acetate/triethylamine (90/10)). The solvent was removed under reduced pressure. The residue was crystallized with oxalic acid from diethyl ether/ethanol.

reactant | 5-aminopentanol | 15 mmol | NCCCCCO | C5H13NO
reactant | 2-chloro-5-nitropyridine | 15 mmol | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium iodide | [I-].[K+]
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 5-Nitro-2-(5-piperidinopentylamino)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)NCCCCCN1CCCCC1 | C15H24N4O2
